US06054457
A mixture of 3-methoxy-4-nitro-N-methyl-N-[4-methyl-2-[5-(4methylpiperazin-1-ylcarbonyl)pent-1-yloxy]phenyl]benzamide (6.2 g) and iron powder (3.43 g) in a mixture of ethanol (65 ml) and ethyl acetate (6 ml) was refluxed for 2 hours. After being cooled to ambient temperature, the solution was filtered through a bed of Celite and the filtrate was evaporated in vacuo. The residue was diluted with ethyl acetate and the solution was washed with saturated sodium hydrogen carbonate and brine, and dried over magnesium sulfate. The solvent was evaporated in vacuo to give 4-amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-ylcarbonyl)pent-1-yloxy]phenyl]benzamide (4.7 g ).

reactant | 3-methoxy-4-nitro-N-methyl-N-[4-methyl-2-[5-(4methylpiperazin-1-ylcarbonyl)pent-1-yloxy]phenyl]benzamide | 6.2 g | COC=1C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=CC1[N+](=O)[O-] | C27H36N4O6
solvent | ethanol | 65 ml | C(C)O | C2H6O
solvent | ethyl acetate | 6 ml | C(C)(=O)OCC | C4H8O2
catalyst | iron | 3.43 g | [Fe] | Fe
product | 4-amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-ylcarbonyl)pent-1-yloxy]phenyl]benzamide | 4.7 g | NC1=C(C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=C1)OC | C27H38N4O4
